US08198453B2
To a solution of 1 M R-CBS-oxazaborolidine in toluene (33 mL, 33 mmol, 0.15 eq) and 10 M BH3 in THF (22 mL, 0.22 mol, 1.0 eq) at −15° C. under nitrogen was added dropwise a solution of (R)-tert-butyl 3-(3-fluorobenzoyl)piperidine-1-carboxylate (67.5 g, 0.22 mol) in anhydrous THF (300 mL). After addition, the reaction mixture was stirred for 1 hr at rt. Methanol (200 mL) was added dropwise carefully at 0° C. The solvent was removed under reduced pressure to provide the crude product. The crude product was dissolved in EtOAc until the alcohol was just dissolved (about 5 mL/1 g), the solvent was removed on the rotary evaporator until a few crystals appeared. To the above solution was added petroleum ether (about 300 mL) under stirring, which was allowed to stir at rt for 2 hr and then filtered, the crystals were washed with petroleum ether and re-crystallized to afford the pure R)-tert-butyl 3-((R)-(3-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (26 g, 39%).

reactant | toluene | 33 mmol, 33 mL, 0.15 eq | C1(=CC=CC=C1)C | C7H8
reactant | (R)-tert-butyl 3-(3-fluorobenzoyl)piperidine-1-carboxylate | 0.22 mol, 67.5 g | FC=1C=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1 | C17H22FNO3
reactant | Methanol | 200 mL | CO | CH4O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.22 mol, 22 mL, 1.0 eq | C1CCOC1 | C4H8O
product | tert-butyl 3-((R)-(3-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 26 g, 39% | FC=1C=C(C=CC1)[C@@H](C1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24FNO3
